US07932272B2
2-Amino-6-(2-hydroxy-ethyl)-nicotinic acid methyl ester
2-Amino-6-(2-ethoxy-vinyl)-nicotinic acid methyl ester (1.07 g, 4.81 mmol) was dissolved in 5N-hydrochloric acid (25 mL), ethanol (20 mL) and tetrahydrofuran (5 mL), and the solution was stirred for 3 hours under reflux. This reaction mixture was allowed to room temperature, and neutralized with a aqueous solution of saturated sodium bicarbonate, then, sodium borohydride (1 g, 26.5 mmol) was added to this reaction mixture, which was then stirred for 20 minutes at room temperature. Ethyl acetate was added thereto, followed by filtrating through Celite pad. This filtrate was partitioned. This organic layer was separated, the solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography, and the title compound (350 mg, 1.92 mmol, 40%) was obtained as a brown oil.

reactant | 2-Amino-6-(2-ethoxy-vinyl)-nicotinic acid methyl ester | 4.81 mmol, 1.07 g | COC(C1=C(N=C(C=C1)C=COCC)N)=O | C11H14N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium borohydride | 26.5 mmol, 1 g | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 25 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-Amino-6-(2-hydroxy-ethyl)-nicotinic acid methyl ester | 1.92 mmol, 350 mg, 40% | COC(C1=C(N=C(C=C1)CCO)N)=O | C9H12N2O3
